US09371320B2
C) (4-(7-bromo-1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)acetic acid
To a mixture to methyl (4-(7-bromo-1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)acetate (270 mg) in a mixed solvent of DME (1.0 mL), THF (1.0 mL) and water (0.5 mL) was added 8N aqueous sodium hydroxide solution (0.346 mL), and the mixture was stirred at 60° C. for 4 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The aqueous layer was neutralized with 1N hydrochloric acid at 0° C., and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (235 mg).

reactant | methyl (4-(7-bromo-1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)acetate | 270 mg | BrC=1C2=C(C(=NC1)OC)C(=NN2C2=C(C=CC=C2F)F)C2=CC=C(C=C2)CC(=O)OC | C22H16BrF2N3O3
reactant | DME | 1.0 mL | COCCOC | C4H10O2
reactant | THF | 1.0 mL | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 8N, 0.346 mL | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 0.5 mL | O | H2O
product | (4-(7-bromo-1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)acetic acid | 235 mg | BrC=1C2=C(C(=NC1)OC)C(=NN2C2=C(C=CC=C2F)F)C2=CC=C(C=C2)CC(=O)O | C21H14BrF2N3O3
